US04752645
(C) 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-1-(methoxymethyl)-4-(methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one
To a suspension of sodium hydride (360 mg; 7.5 mmole; 50% oil dispersion/prewashed with dry ether several times) in dry dimethylformamide (30 ml), cooled at 0°-5° C. was added a solution of 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one (1.9 g; 5 mmole) in dry dimethylformamide (15 ml) dropwise and with stirring. The mixture was stirred for an additional 20 minutes at 0°-5° C., whereupon bromomethylmethyl ether (800 μl; 10 mmole) was added dropwise, and stirring was continued at this temperature for an additional hour. Excess sodium hydride was destroyed by the addition of water, and the mixture was diluted with ether and washed with water. The aqueous layer was extracted with ether (three times) and the combined extracts were dried (magnesium sulfate) and concentrated. The crude oily residue was flash chromatographed (silica gel/5-25% ethyl acetate:hexane) to obtain 1.67 g of the title compound as an oil.

reactant | sodium hydride | 7.5 mmole, 360 mg | [H-].[Na+]
reactant | 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 5 mmole, 1.9 g | COC(=O)C1C(NC2=C(CC1C1=C(C=CC=C1)OC)C=C(C=C2)C(F)(F)F)=O | C20H18F3NO4
reactant | bromomethylmethyl ether | 10 mmole, 800 μl | BrCOC | C2H5BrO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-1-(methoxymethyl)-4-(methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 1.67 g | COC(=O)C1C(N(C2=C(CC1C1=C(C=CC=C1)OC)C=C(C=C2)C(F)(F)F)COC)=O | C22H22F3NO5
